US05929117
2-(3,4-Dimethoxybenzoyl)naphthalene was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (2.6 mL, 20 mmol), aluminum chloride (2.9 g, 22 mmol) and 2-naphthoyl chloride (3.9 g, 20 mmol) with a reaction time of 4 hours at reflux. The crude product was purified by flash column chromatography (silica gel, 2.5% ethyl acetate/methylene chloride) to afford 4.52 g (77%) of the product as a white solid: mp 120-121.5° C.; 1H NMR (CDCl3) δ 8.24 (s, 1H), 8.03-7.84 (m, 4H), 7.68-7.40 (m, 4H), 7.00-6.87 (m, 1H), 3.97 (s, 3H), 3.95 (s, 3H); 13C NMR (CDCl3) δ 195.5, 153.0, 149.0, 135.5, 134.9, 132.2, 131.0, 130.4, 129.2, 128.1, 128.0, 127.8, 126.7, 125.9, 125.4, 112.2, 109.8, 56.1, 56.0; Anal. Calcd for C19H16O3. Theoretical: C, 78.06; H, 5.52. Found: C, 77.73; H, 5.69.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 20 mmol, 2.6 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 22 mmol, 2.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-naphthoyl chloride | 20 mmol, 3.9 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 2-(3,4-Dimethoxybenzoyl)naphthalene | COC=1C=C(C(=O)C2=CC3=CC=CC=C3C=C2)C=CC1OC | C19H16O3
